US05428044
2,6-Dimethyl-4-(1-phenyl-1H-pyrazol-3-yl)aminophenyl 2-oxopropanoate
1,1'-carbonyldiimidazole (4.9 g) was added batchwise to pyruvic acid (2.6 g) in dichloromethane (100 ml), and after 0.5 hours 2,6-dimethyl-4-(1-phenyl-1H-pyrazol-3-yl) aminophenol (2.8 g) was added. The mixture was left for 16 hours, then evaporated, and the residue was chromatographed (silica, dichloromethane) to give, after crystallisation (hexane/ethyl acetate), the title product (1.0 g) mp 123°-125°.

reactant | 1,1'-carbonyldiimidazole | 4.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | pyruvic acid | 2.6 g | C(C(=O)C)(=O)O | C3H4O3
reactant | 2,6-dimethyl-4-(1-phenyl-1H-pyrazol-3-yl) aminophenol | 2.8 g | CC1=C(C(=CC(=C1)NC1=NN(C=C1)C1=CC=CC=C1)C)O | C17H17N3O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,6-Dimethyl-4-(1-phenyl-1H-pyrazol-3-yl)aminophenyl 2-oxopropanoate | O=C(C(=O)OC1=C(C=C(C=C1C)NC1=NN(C=C1)C1=CC=CC=C1)C)C | C20H19N3O3
